US06872827B2
A mixture of 3-formyl-indole-1-carboxylic acid t-butyl ester, Compound 9, where R1 is 4-tolyl, R2 is H, R3 is 2-methylprop-1-yl, and R4 is CH3 (9 mg (0.0609 mmol) and NaBH(OAc)3 (17 mg, 0.0812 mmol) in 1 mL of anhydrous CH2Cl2 was vigorously stirred for 2 days, during which the the initially cloudy solution turned clear. The mixture was partitioned between 5 mL of EtOAc and 3 mL of saturated-NH4Cl solution and extracted three times. The combined EtOAc layer was washed with brine, dried over Na2SO4 and evaporated to dryness under vacuum. The product was purified by a silica gel column with Hexane/EtOAc (4/1-2/1) to afford 15 mg of 7-tolyloxy-3,4-dihydro-2H-quinoline-1-(3-methyl-indole-3-yl-1-carboxylic acid t-butyl ester)-4-spiro-5′-3′-1(2-methylpropy-1-yl)-1′ methyl-imidazolidine-2′,4′-dione as a light brown oil (71% yield).

reactant | 3-formyl-indole-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C=O | C14H15NO3
reactant | NaBH(OAc)3 | 0.0812 mmol, 17 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-tolyloxy-3,4-dihydro-2H-quinoline | 15 mg | C1(=C(C=CC=C1)OC1=CC=C2CCCNC2=C1)C | C16H17NO
